US06100275
8-Methyl-3-phenyl-8-azabicyclo[3.2.1]octan-3-ol
The title compound was prepared from bromobenzene (42.1 mL, 0.4 mol), n-butyllithium in hexanes (156 mL, 2.5 M, 0.39 mol) and 8-methyl-8-azabicyclo[3.2.1]-octan-3-one (25 g, 0.18 mol). Yield 14 g (36%), m.p. 157-159° C.

reactant | bromobenzene | 0.4 mol, 42.1 mL | BrC1=CC=CC=C1 | C6H5Br
reactant | n-butyllithium | C(CCC)[Li]
reactant | 8-methyl-8-azabicyclo[3.2.1]-octan-3-one | 0.18 mol, 25 g | CN1C2CC(CC1CC2)=O | C8H13NO
product | 8-Methyl-3-phenyl-8-azabicyclo[3.2.1]octan-3-ol | CN1C2CC(CC1CC2)(O)C2=CC=CC=C2 | C14H19NO
